US04434175
Ten mmole (0.95 g) of 1,2-dimethyl-pyrrole and an equivalent amount of t-butyl 1,4-dimethyl-5-chlorocarbonyl-2-pyrrole acetate were dissolved in 10 ml of methylene chloride and stirred at 0° C. under nitrogen atmosphere. Three grams (12 mmole) of SnCl4 in 10 ml methylene chloride was added dropwise and the resulting mixture was stirred at room temperature for three hours followed by pouring into 25 ml 6 N HCl at 0° C. with vigorous stirring. The resulting suspension was extracted three times with 20 ml portions of methylene chloride. The crude extract was column chromatographed and crystallized from ether/hexane to give 1.6 g (50%) of t-butyl 1,4-dimethyl-5-(1,5-dimethylpyrrol-2-oyl)pyrrole-2-acetate.

reactant | 1,2-dimethyl-pyrrole | Ten mmole, 0.95 g | CN1C(=CC=C1)C | C6H9N
reactant | t-butyl 1,4-dimethyl-5-chlorocarbonyl-2-pyrrole acetate | CN1C(=CC(=C1C(=O)Cl)C)CC(=O)OC(C)(C)C | C13H18ClNO3
reactant | SnCl4 | 12 mmole, Three grams | Cl[Sn](Cl)(Cl)Cl
reactant | HCl | 6 N, 25 ml | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | t-butyl 1,4-dimethyl-5-(1,5-dimethylpyrrol-2-oyl)pyrrole-2-acetate | 1.6 g, 50% | CN1C(=CC(=C1C(=O)C=1N(C(=CC1)C)C)C)CC(=O)OC(C)(C)C | C19H26N2O3
